US07276516B2
4-(3-Cyclopentyl-2,3-dihydro-indole-1-sulfonyl)-N-(4-fluoro-benzyl)-benzamide
Add 4-(3-cyclopentyl-indole-1-sulfonyl)-N-(4-fluoro-benzyl)-benzamide (0.152 g, 0.319 mmol) portionwise to a stirring mixture of NaCNBH3 (0.096 g, 1.52 mmol) in TFA at 0 to 5° C. under N2. Stir the mixture for 15 minutes at 0-5° C., allow to warm to ambient temperature and add an additional 0.096 g NaCNBH3. Stir the resulting yellow solution for 2 h at ambient temperature, dilute with H2O (13.0 mL) and stir overnight. Pour the reaction mixture is into EtOAc (100 mL). Separate the EtOAc, extract with H2O, 5% NaHCO3 and wash with brine. Separate the EtOAc, dry (MgSO4), filter and evaporate giving a glass. Chromatograph on the chromatotron eluting with EtOAc-hexane 3:7 to give 0.060 g of the title compound: Mass spectrum (m/e) (M+H) 479.1805; found 479.1788.

reactant | 4-(3-cyclopentyl-indole-1-sulfonyl)-N-(4-fluoro-benzyl)-benzamide | 0.319 mmol, 0.152 g | C1(CCCC1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)NCC2=CC=C(C=C2)F)C=C1 | C27H25FN2O3S
reactant | NaCNBH3 | 1.52 mmol, 0.096 g | [BH3-]C#N.[Na+]
reactant | NaCNBH3 | 0.096 g | [BH3-]C#N.[Na+]
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | H2O | 13.0 mL | O | H2O
product | 4-(3-Cyclopentyl-2,3-dihydro-indole-1-sulfonyl)-N-(4-fluoro-benzyl)-benzamide | 0.060 g | C1(CCCC1)C1CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)NCC2=CC=C(C=C2)F)C=C1 | C27H27FN2O3S
